US04174320
15 g. Rifamycin S are dissolved in 50 ml. dimethylformamide and 5.5 g. 1,3,5-tri-(tert.-butyl)-hexahydro-1,3,5-triazine are added to the solution. The reaction mixture is then kept at 75° C. for about 3 hours and 1-amino-4-methylpiperazine, acidified with acetic acid, added directly according to the procedure described in Example 1, followed by analogous working up to give substantially pure rifampicin.

reactant | Rifamycin S | CC1=C(C2=C3C4=C1O[C@@](C4=O)(O/C=C/[C@@H]([C@H]([C@H]([C@@H]([C@@H]([C@@H]([C@H]([C@H](/C=C/C=C(\C(=O)NC(=CC3=O)C2=O)/C)C)O)C)O)C)OC(=O)C)C)OC)C)O | C37H45NO12
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | 1,3,5-tri-(tert.-butyl)-hexahydro-1,3,5-triazine | C(C)(C)(C)N1CN(CN(C1)C(C)(C)C)C(C)(C)C | C15H33N3
reactant | 1-amino-4-methylpiperazine | NN1CCN(CC1)C | C5H13N3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | rifampicin | CC1=C(C2=C3C4=C1O[C@@](C4=O)(O/C=C/[C@@H]([C@H]([C@H]([C@@H]([C@@H]([C@@H]([C@H]([C@H](/C=C/C=C(\C(=O)NC(=C2O)C(=C3O)/C=N/N5CCN(CC5)C)/C)C)O)C)O)C)OC(=O)C)C)OC)C)O | C43H58N4O12
